US04239901
15 g of 4-chloro-1-(4-bromomethyl-3-chlorophenyl)pyrazole are added to 2.8 g of sodium cyanide in 67 ml of dimethylsulfoxide and stirred for 6.5 hours at room temperature. 300 ml of water are added dropwise and 12.3 g of 2-chloro-4-(4-chloropyrazol-1-yl)phenylacetonitrile are thus obtained. Chromatographing the latter with a mixture of cyclohexane/ethanol/ethyl acetate on silica gel, yields a product with a m.p. 139.5° to 140° C. (As by-product, 1,2-bis-[2-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid nitrile has formed; from this by-product the appropriate amide with m.p. 248° to 249.5° C. is obtained by saponification with concentrated sulfuric acid.)

reactant | 4-chloro-1-(4-bromomethyl-3-chlorophenyl)pyrazole | 15 g | ClC=1C=NN(C1)C1=CC(=C(C=C1)CBr)Cl | C10H7BrCl2N2
reactant | sodium cyanide | 2.8 g | [C-]#N.[Na+]
reactant | water | 300 ml | O | H2O
solvent | dimethylsulfoxide | 67 ml | CS(=O)C | C2H6OS
product | 2-chloro-4-(4-chloropyrazol-1-yl)phenylacetonitrile | 12.3 g | ClC1=C(C=CC(=C1)N1N=CC(=C1)Cl)CC#N | C11H7Cl2N3
